US09193728B2
Preparation of N-(propan-2-ylidene)-3-(pyridin-4-yl)-3,4-dihydroquinolin-1(2H)-amine
To a solution of 1-nitroso-3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline (0.41 g, 0.00171 mol) in acetone (22 mL) was added saturated ammonium chloride solution (1.4 mL) and water (1.4 mL) at RT. The resulting brown colored reaction mixture was cooled to 0° C., and then zinc dust (0.669 g, 0.0102 mol) was added portionwise at 0° C. After addition, the reaction mixture was warmed to RT and stirred for 1 h. After completion of reaction (monitored by TLC), solvent was removed under reduced pressure and the residue extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate, solvent was removed under reduced pressure to obtain product as a brown colored oil (0.3 g).

reactant | 1-nitroso-3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline | 0.00171 mol, 0.41 g | N(=O)N1CC(CC2=CC=CC=C12)C1=CC=NC=C1 | C14H13N3O
reactant | ammonium chloride | 1.4 mL | [Cl-].[NH4+]
reactant | water | 1.4 mL | O | H2O
reactant | acetone | 22 mL | CC(=O)C | C3H6O
catalyst | zinc | 0.0102 mol, 0.669 g | [Zn] | Zn
product | N-(propan-2-ylidene)-3-(pyridin-4-yl)-3,4-dihydroquinolin-1(2H)-amine | 0.3 g | CC(C)=NN1CC(CC2=CC=CC=C12)C1=CC=NC=C1 | C17H19N3
